US04112096
A. 5,6-Dihydro-5-oxopyrazolo[1,5-c]-quinazoline-1,2-dicarboxylic acid, dimethyl ester
A solution of 4.8 g (0.03 mole) of 3-diazooxindole in 150 ml of warm (45°) benzene is treated with 5.10 g (0.036 mole) of dimethylacetylene dicarboxylate. After stirring for 6 hours at 45°, an additional 0.426 g (0.003 mole) of ester is added and reaction continued overnight.

reactant | 3-diazooxindole | 0.03 mole, 4.8 g | [N+](=[N-])=C1C(NC2=CC=CC=C12)=O | C8H5N3O
reactant | dimethylacetylene dicarboxylate | 0.036 mole, 5.10 g | COC(=O)C#CC(=O)OC | C6H6O4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5,6-Dihydro-5-oxopyrazolo[1,5-c]-quinazoline-1,2-dicarboxylic acid, dimethyl ester | O=C1NC=2C=CC=CC2C=2N1N=C(C2C(=O)OC)C(=O)OC | C14H11N3O5
